US08835648B2
{1-[3-(1H-Benzoimidazol-2-yl)-4-chloro-phenyl]-pyrrolidin-3-yl}-piperazin-1-yl-methanone
Method G—Step b To a mixture of 4-{1-[3-(1H-Benzoimidazol-2-yl)-4-chloro-phenyl]-pyrrolidine-3-carbonyl}-piperazine-1-carboxylic acid tert-butyl ester (0.11 g, 0.21 mmol) in dcm (1 mL), 2M HCl in Et2O (4 mL) was added. The mixture was stirred at room temperature overnight, the precipitate obtained was filtered off, and washed with Et2O. The precipitate was then recovered in saturated NaHCO3 solution (3 mL), extracted with dcm (2×3 mL), solvent removed and the crude filtered through an SCX cartridge, to obtain 0.05 g of the title compound (57%).

reactant | 4-{1-[3-(1H-Benzoimidazol-2-yl)-4-chloro-phenyl]-pyrrolidine-3-carbonyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CN(CC1)C1=CC(=C(C=C1)Cl)C1=NC2=C(N1)C=CC=C2 | C27H32ClN5O3
reactant | HCl | 2M | Cl | ClH
solvent | Et2O | 4 mL | CCOCC | C4H10O
product | {1-[3-(1H-Benzoimidazol-2-yl)-4-chloro-phenyl]-pyrrolidin-3-yl}-piperazin-1-yl-methanone | 0.05 g, 57% | N1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2Cl)N2CC(CC2)C(=O)N2CCNCC2 | C22H24ClN5O
